US04755511
8-Acetamido-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one (0.7 g) was suspended in hydrazine hydrate (13 ml) and ethanol (2 ml) and heated under reflux for 2 hours. The hot solution was filtered through diatomaceous earth and the filtrate extracted with chloroform. Evaporation of the dried (MgSO4) extract gave a gum which was crystallised by trituration with 1-propanol. The crude solid was fractionated by flash chromatography (CHCl3 eluant) and from the appropriate fraction was obtained 8-amino-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one (0.25 g; m.p. 290-1° from n-propanol/water)ν(Nujol mull) 3465, 3350, 3230, 1658, 1617, 1585 cm-1 ; δ(DMSO-d6) 1.2-1.7 (1H,m,5-H), 1.8-2.9 (6H,m,4,4a,5,6-H) 5.35 (2H,s,NH2), 6.34 (1H,m,7-H), 6.46 (1H,m,9-H), 7.66 (1H,d,10-H), 10.5 (1H,s,NHCO) M+ 215.

reactant | 8-Acetamido-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one | 0.7 g | C(C)(=O)NC=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C14H15N3O2
reactant | ethanol | 2 ml | C(C)O | C2H6O
solvent | hydrazine hydrate | 13 ml | O.NN
product | 8-amino-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3[2H]-one | 0.25 g | NC=1C=CC2=C(CCC3CC(NN=C23)=O)C1 | C12H13N3O
